US09212187B2
Synthesis of 7-(2-aminoethyl)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione hydrochloride
A 4N-hydrogen chloride ethyl acetate solution(6 ml) was added to an ethyl acetate solution (20 ml) of [2-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-yl)ethyl]carbamic acid tert-butyl ester(0.38 g), and the mixture was stirred at room temperature overnight. The reaction mixture was condensed under reduced pressure to give the title compound(0.26 g) as a pale orange amorphous solid.

reactant | hydrogen chloride ethyl acetate | 6 ml | C(C)OC(C)=O.Cl
reactant | [2-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-yl)ethyl]carbamic acid tert-butyl ester | 0.38 g | C(C)(C)(C)OC(NCCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C21H31N3O4
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 7-(2-aminoethyl)-1-ethyl-3,3,5-trimethyl-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione hydrochloride | 0.26 g | Cl.NCCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1 | InChI=1S/C16H23N3O2.ClH/c1-5-19-12-7-6-11(8-9-17)10-13(12)18(4)14(20)16(2,3)15(19)21;/h6-7,10H,5,8-9,17H2,1-4H3;1H
